US06114358
a) 4-Cyanothiophene-2-carbaldehyde
49.3 g (258.05 mmol) of 4-bromothiophene-2-carbaldehyde and 27.8 g (310.41 mmol) of copper(I) cyanide were suspended in 130 ml of absolute DMF and refluxed for 8 h. The solvent was removed in a rotary evaporator at 40° C., and the residue was suspended in ethyl acetate and transferred into a Soxleth [sic] apparatus. The residue was extracted overnight, the yellow solution was dried over sodium sulfate and concentrated in a rotary evaporator, and the resulting yellow solid was recrystallized from ether to result in 25.3 g of product (80% of theory).

reactant | 4-bromothiophene-2-carbaldehyde | 258.05 mmol, 49.3 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | copper(I) cyanide | 310.41 mmol, 27.8 g | [Cu]C#N
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
product | 4-Cyanothiophene-2-carbaldehyde | 25.3 g, 80% | C(#N)C=1C=C(SC1)C=O | C6H3NOS
